US07067658B2
2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine (0.34 g, 1.12 mmol) and 1-cyclopropyl-propylamine (0.30 g, 2.24 mmol) were treated substantially as described in Part D of Example 9 to produce 0.26 g (83%) of crude (1-cyclopropyl-propyl)-[4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-amine: MS (AP) m/z 366.3 [(M+H)+, 100].

reactant | 2-Chloro-4-(2,4-dichloro-phenyl)-3-nitro-pyridine | 1.12 mmol, 0.34 g | ClC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C11H5Cl3N2O2
reactant | 1-cyclopropyl-propylamine | 2.24 mmol, 0.30 g | C1(CC1)C(CC)N | C6H13N
product | (1-cyclopropyl-propyl)-[4-(2,4-dichloro-phenyl)-3-nitro-pyridin-2-yl]-amine | 0.26 g, 83% | C1(CC1)C(CC)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl | C17H17Cl2N3O2
